### PR TITLE
feat: (un)dominated games

### PR DESCRIPTION
**Pull request by tristan-f-r**
This adds undominated games to progress #79. 

_Note_: The theorems attached to this definition are not enough to prove the full validity of the definition - that will have to wait for `canonical`.

This currently has a sorry in `exists_ge_in_undominate_of_leftMoves` that needs to be resolved.

### CODE REVIEW

**Comment by tristan-f-r** [comment]
This definition is incorrect - it does not recursively undominate games.

File: CombinatorialGames/Game/Canonical.lean [hunk 1]
```diff
@@ -0,0 +1,147 @@
...
+  · intro a ha
+    have := hzy (-a) (show - (-a) ∈ x.leftMoves by simpa)
+    rwa [IGame.neg_lt] at this
+  · have : z.Short := Short.of_mem_leftMoves hxz
+    refine ⟨-z, by simpa, ?_⟩
+    rw [undominate_neg]
+    exact neg_eq_iff_eq_neg.mpr hz
+  · intro a ha
+    have := hzy (-a) ha
+    rwa [IGame.neg_lt_neg_iff] at this
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Canonical.lean]: This is case-hell. I need to find a way to reduce this.

File: CombinatorialGames/Game/Canonical.lean [hunk 2]
```diff
@@ -0,0 +1,147 @@
...
+Authors: Tristan Figueroa-Reid
+-/
+
+import CombinatorialGames.Game.Birthday
+
+/-!
+# Canonical games
+
+For any game G, its canonical game is the game of unique lowest birthday
+which fits inside G. From the literature, this file provides an explicit
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: Is this the same notion of fits as `IGame.Fits`? If so, we might want to reword this so that it links to that definition. (If not, should we adapt `IGame.Fits` to match?)

File: CombinatorialGames/Game/Canonical.lean [hunk 3]
```diff
@@ -0,0 +1,147 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tristan Figueroa-Reid
+-/
+
+import CombinatorialGames.Game.Birthday
+
+/-!
+# Canonical games
+
+For any game G, its canonical game is the game of unique lowest birthday
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: Is the game unique, or is the lowest birthday unique?

File: CombinatorialGames/Game/Canonical.lean [hunk 4]
```diff
@@ -0,0 +1,147 @@
...
+which fits inside G. From the literature, this file provides an explicit
+(though noncomputable) construction of canonical games through undominating
+and unreversing games.
+
+## TODO
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: nitpick, but I think we generally write this as lowercase throughout the repo
```suggestion
## Todo
```

File: CombinatorialGames/Game/Canonical.lean [hunk 5]
```diff
@@ -0,0 +1,147 @@
...
+-/
+
+universe u
+
+namespace IGame
+
+/-- Undominating a game. This returns garbage values on non-short games -/
+noncomputable def undominate (x : IGame) : IGame :=
+  have : Small {y : IGame | y.birthday < x.birthday} :=
+    show Small {y : IGame // y.birthday < x.birthday} by infer_instance
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]:
```suggestion
  have : Small {y : IGame | y.birthday < x.birthday} := small_setOf_birthday_lt _
```

File: CombinatorialGames/Game/Canonical.lean [hunk 6]
```diff
@@ -0,0 +1,147 @@
...
+  {{y ∈ {y | y.birthday < x.birthday} ∩
+      {y | ∃ z, ∃ (_ : z ∈ x.leftMoves), z.undominate = y} | ∀ z ∈ x.leftMoves, ¬y < z} |
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: Just as a quick correctness check, you sure you mean `¬ y < z` rather than `¬ y ≤ z`?

File: CombinatorialGames/Game/Canonical.lean [hunk 7]
```diff
@@ -0,0 +1,147 @@
...
+  · suffices (∀ z ∈ x.leftMoves, ¬y < z) → ∀ z ∈ x.leftMoves, z.undominate = y →
+      y.birthday < x.birthday by simpa
+    intro hz z hz hzy
+    have := (undominate_birthday_le z).trans_lt (birthday_lt_of_mem_leftMoves hz)
+    rwa [hzy] at this
+  · suffices (∀ z ∈ x.rightMoves, ¬z < y) → ∀ z ∈ x.rightMoves, z.undominate = y →
+      y.birthday < x.birthday by simpa
+    intro hz z hz hzy
+    have := (undominate_birthday_le z).trans_lt (birthday_lt_of_mem_rightMoves hz)
+    rwa [hzy] at this
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: You can really take advantage of symmetry here:
```suggestion
theorem undominate_def {x : IGame} :
    x.undominate = {{y ∈ undominate '' x.leftMoves | ∀ z ∈ x.leftMoves, ¬y < z} |
      {y ∈ undominate '' x.rightMoves | ∀ z ∈ x.rightMoves, ¬z < y}}ᴵ := by
  rw [undominate]
  ext y <;>
  simpa using fun hz z hz hzy ↦ hzy ▸ (undominate_birthday_le z).trans_lt <|
    birthday_lt_of_isOption (by aesop)
```
If you feel uncomfortable using `aesop` for such a simple goal you can also use `simp_all [IsOption]` or even `first | exact .inl hz | exact .inr hz`.

File: CombinatorialGames/Game/Canonical.lean [hunk 8]
```diff
@@ -0,0 +1,147 @@
...
+
+@[simp]
+theorem undominate_leftMoves {x : IGame} :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]:
```suggestion
theorem leftMoves_undominate {x : IGame} :
```

File: CombinatorialGames/Game/Canonical.lean [hunk 9]
```diff
@@ -0,0 +1,147 @@
...
+    x.undominate.leftMoves = {y ∈ undominate '' x.leftMoves | ∀ z ∈ x.leftMoves, ¬y < z} := by
+  rw [undominate_def]
+  exact leftMoves_ofSets ..
+
+@[simp]
+theorem undominate_rightMoves {x : IGame} :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]:
```suggestion
theorem rightMoves_undominate {x : IGame} :
```

File: CombinatorialGames/Game/Canonical.lean [hunk 10]
```diff
@@ -0,0 +1,147 @@
...
+    {y ∈ {y | y.birthday < x.birthday} ∩
+        {y | ∃ z, ∃ (_ : z ∈ x.rightMoves), z.undominate = y} | ∀ z ∈ x.rightMoves, ¬z < y}}ᴵ
+termination_by x
+decreasing_by igame_wf
+
+theorem undominate_birthday_le (x : IGame) : x.undominate.birthday ≤ x.birthday := by
+  rw [undominate, birthday_le_iff']
+  aesop
+
+theorem undominate_def {x : IGame} :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: Is it not easier to set things up the other way around? That is, use this as the definition of `undominate`, then prove that `x.undominate.birthday ≤ x.birthday` by a quick induction?

Comment (vihdzp) [reply CombinatorialGames/Game/Canonical.lean]: In fact, check this out:
```lean 4
/-- Undominating a game. This returns garbage values on non-short games -/
noncomputable def undominate (x : IGame) : IGame :=
  {{y ∈ Set.range fun z : x.leftMoves ↦ undominate z | ∀ z ∈ x.leftMoves, ¬y < z} |
    {y ∈ Set.range fun z : x.rightMoves ↦ undominate z | ∀ z ∈ x.rightMoves, ¬z < y}}ᴵ
termination_by x
decreasing_by igame_wf

theorem birthday_undominate_le (x : IGame) : x.undominate.birthday ≤ x.birthday := by
  rw [undominate, birthday_le_iff']
  have (w) (hw : IsOption w x) := (undominate_birthday_le w).trans_lt (birthday_lt_of_isOption hw)
  aesop
termination_by x
decreasing_by igame_wf

theorem undominate_def {x : IGame} : x.undominate =
    {{y ∈ undominate '' x.leftMoves | ∀ z ∈ x.leftMoves, ¬y < z} |
      {y ∈ undominate '' x.rightMoves | ∀ z ∈ x.rightMoves, ¬z < y}}ᴵ := by
  rw [undominate]
  simp
```

File: CombinatorialGames/Game/Canonical.lean [hunk 11]
```diff
@@ -0,0 +1,147 @@
...
+    x.undominate.rightMoves = {y ∈ undominate '' x.rightMoves | ∀ z ∈ x.rightMoves, ¬z < y} := by
+  rw [undominate_def]
+  exact rightMoves_ofSets ..
+
+instance {x : IGame} [hx : Short x] : Short (undominate x) := by
+  rw [short_iff_birthday_finite] at hx ⊢
+  exact (undominate_birthday_le x).trans_lt hx
+
+@[simp]
+theorem undominate_neg {x : IGame} [Short x] : (-x).undominate = -x.undominate := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: I think we're missing a few theorems on `Set.neg`. I managed to golf the proof down to this:
```lean 4
theorem _root_.Set.neg_setOf {α : Type*} [InvolutiveNeg α] (p : α → Prop) :
    -{x | p x} = {x | p (-x)} :=
  rfl

theorem _root_.Set.image_neg_of_apply_neg {α β : Type*} [InvolutiveNeg α] [InvolutiveNeg β]
    {s : Set α} {f : α → β} (H : ∀ x ∈ s, f (-x) = -f x) : f '' (-s) = -f '' s := by
  ext
  rw [Set.mem_image, ← (Equiv.neg _).exists_congr_right]
  aesop

@[simp]
theorem undominate_neg (x : IGame) : (-x).undominate = -x.undominate := by
  have H₁ := leftMoves_neg x ▸ Set.image_neg_of_apply_neg fun y _ ↦ undominate_neg y
  have H₂ := rightMoves_neg x ▸ Set.image_neg_of_apply_neg fun y _ ↦ undominate_neg y
  rw [undominate_def, undominate_def, neg_ofSets]
  simp_rw [H₁, H₂, Set.neg_setOf]
  congr! 3 <;> rw [← (Equiv.neg _).forall_congr_right] <;> simp [IGame.lt_neg, IGame.neg_lt]
termination_by x
decreasing_by igame_wf
```
Note that you don't even need the `Short x` assumption!

File: CombinatorialGames/Game/Canonical.lean [hunk 12]
```diff
@@ -0,0 +1,147 @@
...
+    rw [← hba]
+    exact AntisymmRel.ge undominate_equiv.symm
+  · rw [undominate_leftMoves]
+    refine ⟨fun a ⟨⟨b, ⟨hb, hba⟩⟩, _⟩ ↦ .inl ⟨b, hb, ?_⟩,
+      fun a ha ↦ .inr (exists_gt_in_undominate_of_rightMoves ha)⟩
+    have : b.Short := Short.of_mem_leftMoves hb
+    rw [← hba]
+    exact AntisymmRel.ge undominate_equiv
+termination_by x
+decreasing_by igame_wf
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: Managed to finish your proofs! I couldn't find success with your original inductive argument, but I was able to come up with one of my own.
```suggestion
private theorem le_undominate (x : IGame) [Short x] : x ≤ undominate x := by
  rw [le_def, leftMoves_undominate, rightMoves_undominate]
  refine ⟨fun y hy ↦ ?_, ?_⟩
  · obtain ⟨z, ⟨hyz, ⟨hz, hz'⟩⟩⟩ := (Short.finite_leftMoves x).exists_le_maximal hy
    have := Short.of_mem_leftMoves hz
    have IH := le_undominate z
    refine .inl ⟨_, ⟨⟨Set.mem_image_of_mem _ hz, fun a ha h ↦ ?_⟩, hyz.trans IH⟩⟩
    replace h := IH.trans_lt h
    exact (hz' ha h.le).not_gt h
  · rintro y ⟨⟨z, ⟨hz, rfl⟩⟩, _⟩
    have := Short.of_mem_rightMoves hz
    exact .inr ⟨z, hz, le_undominate z⟩
termination_by x
decreasing_by igame_wf

theorem undominate_equiv (x : IGame) [Short x] : undominate x ≈ x :=
  ⟨by simpa using le_undominate (-x), le_undominate x⟩
```

File: CombinatorialGames/Game/Canonical.lean (hunk 6 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Canonical.lean]: You're right - it should be  ¬ y ≤ z :+1:

Comment (vihdzp) [reply CombinatorialGames/Game/Canonical.lean]: Wait, really? Can you still show `undominate x ≈ x` with that definition?

Comment (vihdzp) [reply CombinatorialGames/Game/Canonical.lean]: Every game is less or equal to itself, so surely this would make it so that `undominate x = 0` always.

Comment (tristan-f-r) [reply CombinatorialGames/Game/Canonical.lean]: Though now I am a little confused - I just came to the same conclusion you did, but I also suspect that there's something bad underlying using `¬ y < z`. Unfortunately, I don't remember it, so I'm skeptical of myself here, again.

Comment (tristan-f-r) [reply CombinatorialGames/Game/Canonical.lean]: Ah, right - I think this has to do with the IGame/Game distinction again. The current definition of `undominate` is strong enough to handle the "smallest birthday" requirement, but it's not strong enough to be unique.

Comment (tristan-f-r) [reply CombinatorialGames/Game/Canonical.lean]: (The original definition was correct)

File: CombinatorialGames/Game/Canonical.lean [hunk 13]
```diff
@@ -0,0 +1,99 @@
...
+
+theorem _root_.Set.neg_setOf {α : Type*} [InvolutiveNeg α] (p : α → Prop) :
+    -{x | p x} = {x | p (-x)} :=
+  rfl
+
+theorem _root_.Set.image_neg_of_apply_neg {α β : Type*} [InvolutiveNeg α] [InvolutiveNeg β]
+    {s : Set α} {f : α → β} (H : ∀ x ∈ s, f (-x) = -f x) : f '' (-s) = -f '' s := by
+  ext
+  rw [Set.mem_image, ← (Equiv.neg _).exists_congr_right]
+  aesop
```
Comment (vihdzp) [inline CombinatorialGames/Game/Canonical.lean]: I'll PR these to Mathlib tomorrow, in the meanwhile we might want to separate them and put them near the beginning of the file.

**Review by vihdzp — APPROVED** [review]
